US04632925
Preparation of 3-[4-[4-(2,2-Diphenylethenyl)-1-piperidinyl]butyl]pyridine
The title compound was prepared in a manner similar to that employed for 3-[4-[4-(diphenyl methyl)-1-piperidinyl]butyl]pyridine (1:1)-(Z)-2-butenedioate salt (Ex. 16) starting with 5.0 g of 4-(2,2-diphenylethenyl)-1-[1-oxo-4-(3-pyridinyl)butyl]piperidine and 7.2 mL of a 3.5M solution of sodium bis(2-methoxyethoxy)aluminum hydride in toluene. The analytically pure base was obtained from hexanne, mp 54°-56° C. Analysis Calculated for C28H32N2 : C, 84.80; H, 8.13; N, 7.06. Found: C. 84.61; H, 7.92; N, 7.05. Evaporation of the hexane filtrates provided 4.4 g of crude 3-[4-[4-(2,2-diphenylethenyl)-1-piperidinyl]butyl]pyridine, which was dissolved in 50 mL of hot ethanol and treated with 1.28 of fumaric acid. Dilution with 50 mL of ether provided 4.1 g (67%) of salt, mp 163°-165° C. Analysis Calculated for C28H32N2.C4H4O4 : C, 74.97; H, 7.08; N, 5.46. Found: C, 74.69; H, 7.07; N, 5.44.

reactant | 3-[4-[4-(diphenyl methyl)-1-piperidinyl]butyl]pyridine | C1(=CC=CC=C1)C(C1CCN(CC1)CCCCC=1C=NC=CC1)C1=CC=CC=C1 | C27H32N2
reactant | (Z)-2-butenedioate | C(\C=C/C(=O)[O-])(=O)[O-]
reactant | 4-(2,2-diphenylethenyl)-1-[1-oxo-4-(3-pyridinyl)butyl]piperidine | 5.0 g | C1(=CC=CC=C1)C(=CC1CCN(CC1)C(CCCC=1C=NC=CC1)=O)C1=CC=CC=C1 | C28H30N2O
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[4-[4-(2,2-diphenylethenyl)-1-piperidinyl]butyl]pyridine | 4.4 g | C1(=CC=CC=C1)C(=CC1CCN(CC1)CCCCC=1C=NC=CC1)C1=CC=CC=C1 | C28H32N2
